US07109229B2
(b) 3-(4-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)-acetamide (0.539 g, 2.87 mmol) and (4-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.656 g, 2.81 mmol) in DMF (40 mL) under N2 was added a 1.0 M solution of potassium-tert-butoxide in THF (10 mL, 10 mmol) dropwise over 5 minutes. The mixture was heated at 60° C. for 15 h, quenched with 1N HCl (excess) and poured into EtOAc. The organic layer was separated, washed with water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated onto flash SiO2. Flash chromatography (30–40% hexane/EtOAc) gave the title compound (0.414 g, 40%) as a red solid, which was dried under vacuum overnight. 1H NMR (400 MHz, DMSO-d6) 11.49 (br s, 1H), 11.08 (s, 1H), 7.49 (dd, J=7, 3 Hz, 1H), 7.30 (d, J=3 Hz, 1H), 7.25 (d, J=3 Hz, 1H), 6.86–7.05 (m 4H), 6.39 (d, J=7 Hz, 1H), 6.42 (d, J=3 Hz, 1H), 3.76 (s, 3H), 3.34 (s, 3H). MS (electrospray, m/z) 372.1 (M++1), 370 (M−−1). HRMS 372.1347 (M++1, calcd for C22H18N3O3 372.1348).

reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 2.87 mmol, 0.539 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | (4-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.81 mmol, 0.656 g | COC(C(=O)C1=CNC2=CC=CC(=C12)OC)=O | C12H11NO4
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 10 mmol, 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(4-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 0.414 g, 40% | COC1=C2C(=CNC2=CC=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H17N3O3
